US09382188B2
step 3) tert-butyl 2′-fluoro-5′-methoxy-2-(3-methoxy-3-methylbut-1-yn-1-yl)biphenyl-4-yl carbonate
To a solution of tert-butyl 2′-fluoro-2-(3-hydroxy-3-methylbut-1-yn-1-yl)-5′-methoxybiphenyl-4-yl carbonate (314 mg) and iodomethane (0.50 mL) in toluene (5 mL) was added silver(I) oxide (365 mg). After stirring at 40° C. for 20 hr, silver(I) (365 mg) was added to the reaction mixture. The mixture was stirred at 40° C. for 70 hr. The reaction mixture was filtered, the solvent of the filtrate was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (244 mg) as a colorless oil.

reactant | tert-butyl 2′-fluoro-2-(3-hydroxy-3-methylbut-1-yn-1-yl)-5′-methoxybiphenyl-4-yl carbonate | 314 mg | C(OC(C)(C)C)(OC1=CC(=C(C=C1)C1=C(C=CC(=C1)OC)F)C#CC(C)(C)O)=O | C23H25FO5
reactant | iodomethane | 0.50 mL | IC | CH3I
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | silver(I) oxide | 365 mg | [Ag-]=O
catalyst | silver(I) | 365 mg | [Ag+]
product | tert-butyl 2′-fluoro-5′-methoxy-2-(3-methoxy-3-methylbut-1-yn-1-yl)biphenyl-4-yl carbonate | 244 mg | C(OC(C)(C)C)(OC1=CC(=C(C=C1)C1=C(C=CC(=C1)OC)F)C#CC(C)(C)OC)=O | C24H27FO5
